US09428528B2
Step 1 (4S,5R)-5-[4-(6-Cyano-pyridin-3-yl)-phenyl]-4-fluoromethyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester
To stirred solution of (4S,5R)-4-Fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidine-3-carboxylic acid tert-butyl ester (0.75 g, 1.72 mmol) in dimethoxyethane:water (8:2, 10 mL) is added Cs2CO3 (1.12 g, 3.44 mmol) and 5-Bromo-pyridine-2-carbonitrile (0.347 g, 1.89 mmol). Reaction mixture is degassed with nitrogen for 30 minutes, followed by addition of Pd(PPh3)4 (0.199 g, 0.172 mmol). The resulting reaction mixture heated to 90° C. for 3 hours. Diluted with water (20 mL) and ethyl acetate (40 mL). The organic layer is separated, dried over sodium sulphate and solvent is evaporated in vacuo to get crude material purified by column chromatography eluting in 15% ethyl acetate in hexane to afford title compound (0.3 g). 1H-NMR (400 MHz, DMSO-d6): δ: 1.43 (s, 9H), 1.51 (s, 3H), 1.63 (s, 3H), 3.83-3.90 (m, 1H), 4.47-4.58 (m, 2H), 4.75-4.93 (m, 2H), 5.15 (d, 1H, J=7.2 Hz), 7.64 (d, 2H, J=8.28 Hz), 7.87 (d, 2H, J=8.24 Hz), 8.15 (d, 1H, J=8.16 Hz), 8.36 (dd, 1H, J=8.2 Hz, J=2.2 Hz), 9.12 (d, 1H, J=2.24 Hz), LC-MS (m/z): [M+H]=412.1.

reactant | (4S,5R)-4-Fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidine-3-carboxylic acid tert-butyl ester | 1.72 mmol, 0.75 g | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(C)C | C23H35BFNO5
reactant | Cs2CO3 | 3.44 mmol, 1.12 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 5-Bromo-pyridine-2-carbonitrile | 1.89 mmol, 0.347 g | BrC=1C=CC(=NC1)C#N | C6H3BrN2
solvent | dimethoxyethane water | 10 mL | C(OC)COC.O
solvent | water | 20 mL | O | H2O
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 0.172 mmol, 0.199 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4S,5R)-5-[4-(6-Cyano-pyridin-3-yl)-phenyl]-4-fluoromethyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 0.3 g | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=NC(=CC1)C#N)(C)C | C23H26FN3O3
